US06555557B1
Preparation of 3-(3-methoxymethoxypyridin-4-yl)-1-propanol
Lithium aluminum hydride (6.0 g, 0.16 mmol) is suspended in THF (500 ml), and thereto is added with stirring 3-(3-methoxymethoxypyridin-4-yl)propionic acid ethyl ester (21 g, 89 mmol) obtained in Reference Example 25 at 50° C. over a period of time for 30 minutes. The mixture is heated under reflux for 30 minutes, and thereto are added successively water (6 ml), a 15% sodium hydroxide (6 ml) and water (18 ml) in order to quench the reaction. The reaction solution is filtered to remove the insoluble materials, and the filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: ethyl acetate) to give the title compound (17.5 g) as a colorless oil.

reactant | Lithium aluminum hydride | 0.16 mmol, 6.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3-methoxymethoxypyridin-4-yl)propionic acid ethyl ester | 89 mmol, 21 g | C(C)OC(CCC1=C(C=NC=C1)OCOC)=O | C12H17NO4
reactant | water | 6 ml | O | H2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 3-(3-methoxymethoxypyridin-4-yl)-1-propanol | 17.5 g | COCOC=1C=NC=CC1CCCO | C10H15NO3
